US07807720B2
8-(4-fluoro-3-methylphenyl)oct-7-enoic acid (B5)
To a suspension of 7-Carboxyheptanyltriphenylphosphonium bromide (9.240 g, 19.602 mmol) in 100 mL of benzene, was added t-BuOK (58.8 mL, 58.8 mmol, 1M in THF). The resulting mixture was refluxed for 1 h and then 4-fluoro-3-methylbenzaldehyde (1.43 mL, 11.761 mmol) was added via a syringe. The mixture was continued to reflux under N2 for 63 h. After cooling to room temperature, the reaction mixture was washed with water (80 mL). The aqueous layer was acidified with concentrated HCl to pH=2 and extracted with ethyl acetate (30 mL×3). The combined organic extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure. The product was isolated by Flash column chromatography (silica gel column) eluting with 0-30% ethyl acetate/hexanes to give the title compound as colorless oil (3.150 g, >99% yield). LC-MS: tR=9.6 min, m/z 251 (M+H)+.

reactant | 7-Carboxyheptanyltriphenylphosphonium bromide | 19.602 mmol, 9.240 g | [Br-].C(=O)(O)CCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 58.8 mmol, 1M, 58.8 mL | CC(C)(C)[O-].[K+]
reactant | 4-fluoro-3-methylbenzaldehyde | 11.761 mmol, 1.43 mL | FC1=C(C=C(C=O)C=C1)C | C8H7FO
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 8-(4-fluoro-3-methylphenyl)oct-7-enoic acid | 3.150 g, >99% yield | FC1=C(C=C(C=C1)C=CCCCCCC(=O)O)C | C15H19FO2
